US09278915B2
Intermediate 126: Methyl 3-cyclopropyl-3-(4-hydroxyphenyl)propanoate
To a 100 mL RB flask fitted with magnetic stirrer and reflux condenser was charged with 5 mL of Methanol. To the stirred solvent was added 3-cyclopropyl-3-(4-hydroxyphenyl)propanoic acid (160 mg, 0.7759 mmol) followed by the addition of Methane sulfonic acid (74.56 mg, 0.7759 mmol). The resulting mixture was stirred at 65° C. for 2 h. After completion of the reaction (reaction monitored by TLC), solvent from the reaction mass was removed under reduced pressure and the resulting crude mass was taken in ethyl acetate (50 mL) and was washed with water (100 mL×3), sodium bicarbonate solution (100 mL×3), saturated brine solution (100 mL). Then the organic layer was dried over anhydrous Na2SO4. The solvent was removed under reduced pressure. The product was obtained as brown syrup. yield: 98.0% (0.23 g, crude) (300 MHz, DMSO-d6): δ 9.16 (s, 1H), 7.01-7.04 (d, 2H), 6.64-6.67 (d, 2H), 3.49 (s, 3H), 2.63-2.68 (m, 2H), 2.14-2.22 (m, 1H), 0.93-0.97 (m, 1H), 0.45-0.49 (m, 1H), 0.26-0.33 (m, 1H), 0.13-0.17 (m, 1H), 0.04-0.07 (m, 1H).

reactant | 3-cyclopropyl-3-(4-hydroxyphenyl)propanoic acid | 0.7759 mmol, 160 mg | C1(CC1)C(CC(=O)O)C1=CC=C(C=C1)O | C12H14O3
reactant | Methane sulfonic acid | 0.7759 mmol, 74.56 mg | CS(=O)(=O)O | CH4O3S
solvent | Methanol | 5 mL | CO | CH4O
product | Methyl 3-cyclopropyl-3-(4-hydroxyphenyl)propanoate | yield: 98.0% | C1(CC1)C(CC(=O)OC)C1=CC=C(C=C1)O | C13H16O3
